US06759428B2
To a suspension of sodium hydride (0.11 g, 4 mmol) and anhydrous DMF (2 mL) was added a solution of 1-[2-(2-Hydroxy-ethoxy)-ethyl]-1H-indole-2-carboxylic acid ethyl ester (0.64 g, 2.3 mmol) in anhydrous DMF (5 mL). The reaction was allowed to stir at room temperature then was added methyl iodide (0.15 mL, 2.4 mmol). The reaction was allowed to stir for an additional 5.5 hours and then was poured onto 50 mL water and extracted with three 50 mL portions of ethyl acetate. The combined organics were washed with three 50 mL portions of water, dried on sodium sulfate, and concentrated. Purification by column chromatography (25:75 ethyl acetate:hexane) gave 1-[2-(2-Methoxy-ethoxy)ethyl]-1H-indole-2-carboxylic acid ethyl ester.

reactant | sodium hydride | 4 mmol, 0.11 g | [H-].[Na+]
reactant | 1-[2-(2-Hydroxy-ethoxy)-ethyl]-1H-indole-2-carboxylic acid ethyl ester | 2.3 mmol, 0.64 g | C(C)OC(=O)C=1N(C2=CC=CC=C2C1)CCOCCO | C15H19NO4
reactant | methyl iodide | 2.4 mmol, 0.15 mL | CI | CH3I
reactant | water | 50 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-[2-(2-Methoxy-ethoxy)ethyl]-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=CC=C2C1)CCOCCOC | C16H21NO4
